US07115600B2
Toluene-4-sulfonic acid 3-(4-pyrrolidin-1-ylmethyl-phenyl)-cyclobutylmethyl ester
To a stirring solution of [3-(4-pyrrolidin-1-ylmethyl-phenyl)-cyclobutyl]-methanol (0.56 g, 2.3 mmol) prepared above in 5 mL of dichlormethane was added triethyl amine (1.6 mL, 2.7 mmol) followed by 4-(dimethyl amino)pyridine (2.8 mg, 0.23 mmol) and p-toluene sulfonyl chloride (0.52 g, 2.7 mmol). After 1 hr the reaction was quenched with a saturated aqueous solution of NaHCO3. The reaction was diluted and extracted with dichloromethane. The organic layers were dried over magnesium sulfate, filtered through a fritted funnel, and concentrated under reduced pressure. Purification of this material was accomplished by flash column chromatography, using a 40 g ISCO column, eluting with a gradient of 4%, 6%, and 10% MeOH/CH2Cl2. The product containing fractions were collected and concentrate under reduced pressure to give the title compound (0.82 g, 93% yield) as a colorless oil and a mixture of cis:trans isomers.

reactant | [3-(4-pyrrolidin-1-ylmethyl-phenyl)-cyclobutyl]-methanol | 2.3 mmol, 0.56 g | N1(CCCC1)CC1=CC=C(C=C1)C1CC(C1)CO | C16H23NO
reactant | triethyl amine | 2.7 mmol, 1.6 mL | C(C)N(CC)CC | C6H15N
reactant | p-toluene sulfonyl chloride | 2.7 mmol, 0.52 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | dichlormethane | 5 mL | ClCCl | CH2Cl2
catalyst | 4-(dimethyl amino)pyridine | 0.23 mmol, 2.8 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | Toluene-4-sulfonic acid 3-(4-pyrrolidin-1-ylmethyl-phenyl)-cyclobutylmethyl ester | 0.82 g, 93% yield | N1(CCCC1)CC1=CC=C(C=C1)C1CC(C1)COS(=O)(=O)C1=CC=C(C=C1)C | C23H29NO3S
